US04886814
N-[2-(4-Carboxymethoxyphenyl)-1-methylethyl]-2-(2-chloro-thiazol-4-yl)morpholine
0.55 g (0.0013 mol) of N-[2-(4-carbomethoxymethoxy-phenyl)-1-methylethyl]-2-(2-chloro-thiazol-4-yl)morpholine are stirred in 4 ml of methanol and 4 ml of 1N sodium hydroxide solution at room temperature for 10 minutes. The mixture is then neutralised with 4 ml of 1N hydrochloric acid, and the product is obtained by extraction with methylene chloride.

reactant | N-[2-(4-carbomethoxymethoxy-phenyl)-1-methylethyl]-2-(2-chloro-thiazol-4-yl)morpholine | 0.0013 mol, 0.55 g | C(=O)(OC)COC1=CC=C(C=C1)CC(C)N1CC(OCC1)C=1N=C(SC1)Cl | C19H23ClN2O4S
reactant | sodium hydroxide | 1N, 4 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 4 ml | Cl | ClH
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methanol | 4 ml | CO | CH4O
product | N-[2-(4-Carboxymethoxyphenyl)-1-methylethyl]-2-(2-chloro-thiazol-4-yl)morpholine | C(=O)(O)COC1=CC=C(C=C1)CC(C)N1CC(OCC1)C=1N=C(SC1)Cl | C18H21ClN2O4S
